US07951824B2
Step 1: 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (2-chloro-pyridin-4-yl)-amide
The title compound, was prepared in accordance with the general method of example 131, step 1 from 4-Bromo-6-methyl-pyridine-2-carboxylic acid (2-choro-pyridin-4-yl)-amide and Bis(pinacolato)diboron to yield the desired intermediate as a light brown solid, MS (ISP): m/e=292.1, 294.1 [M(B(OH)2)+H]+.

reactant | 4-Bromo-6-methyl-pyridine-2-carboxylic acid (2-choro-pyridin-4-yl)-amide | ClC1=NC=CC(=C1)NC(=O)C1=NC(=CC(=C1)Br)C | C12H9BrClN3O
reactant | Bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (2-chloro-pyridin-4-yl)-amide | ClC1=NC=CC(=C1)NC(=O)C1=NC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C18H21BClN3O3
